US09403801B2
Step 5) 2-benzyl-2-azaspiro[4.4]nonan-4-ol
To a cooled to 0° C. solution of 2-benzyl-2-azaspiro[4.4]nonane-1,4-dione (20.00 g, 82.2 mmol) in THF (150 mL) was added LiAlH4 (20.93 g, 550.8 mmol) portionwise. After addition, the reaction mixture was stirred at 80° C. overnight, cooled down to rt and quenched carefully with sequential addition of EtOAc (200 mL), 15% KOH aqueous solution (40 mL) and water (100 mL). After addition, the resulting mixture was stirred at rt for 3 h, and filtered through a Celite pad, then washed with EtOAc (1 L). The filtrate was concentrated in vacuo to give the product as yellow oil (19.02 g, 100%).

reactant | 2-benzyl-2-azaspiro[4.4]nonane-1,4-dione | 82.2 mmol, 20.00 g | C(C1=CC=CC=C1)N1C(C2(C(C1)=O)CCCC2)=O | C15H17NO2
reactant | LiAlH4 | 550.8 mmol, 20.93 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-benzyl-2-azaspiro[4.4]nonan-4-ol | 19.02 g, 100% | C(C1=CC=CC=C1)N1CC2(C(C1)O)CCCC2 | C15H21NO
